US04182711
A solution of 2-methoxyethoxyacetyl chloride (700 mg.; 4.59 mmoles) in methylene chloride (10 ml.; dried over molecular sieves) was added dropwise at 0°-5° to a stirred solution of triethylamine (0.7 ml.; 508 mg.; 5.04 mmoles) in methylene chloride (20 ml.) which had been saturated at 0°-5° with H2S (ca. 30 min.). The light yellow mixture was stirred at 0°-5° for 30 min. and then at room temperature for 30 min. The mixture was washed with 1N HCl (10 ml.×2) and then brine. The CH2Cl2 layer was dried (Na2SO4) and evaporated yielding 2-methoxyethoxythioacetic acid (480 mg.; 3.20 mmoles; yield 69.7%) as a light yellow liquid: nmr (CDCl3): δppm 3.42 (3H, s, --OCH3), 3.4-3.9 (4H, m, --CH2CH2 -), 4.10 (2H, s, -OCCH2O), 5.0 (1H, br, -COSH); ir (neat): 2550 cm-1 (νS-H), 1770 (νc=o, thio acid).

reactant | 2-methoxyethoxyacetyl chloride | 4.59 mmoles, 700 mg | COCCOCC(=O)Cl | C5H9ClO3
reactant | triethylamine | 5.04 mmoles, 0.7 ml, 508 mg | C(C)N(CC)CC | C6H15N
reactant | H2S | S | H2S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-methoxyethoxythioacetic acid | 3.20 mmoles, 480 mg, yield 69.7% | COCCOCC(=S)O | C5H10O3S
